*inverter characteristics

.include ./t14y_tsmc_025_level3.txt

mos1 out in vs 0 cmosn l = 200n w = 2000n
mos2 out in vd vd cmosp l = 200n w = 500n

v_d vd 0 5
v_o vs 0 0

v_in in 0 pulse(0 5 0 0.1n 0.1n 50n 100n)
cl out 0 1p

.control
tran 0.1n 200n
run
setplot tran1
plot -v_d#branch

plot in out 
dc v_in 0 5 0.1
run
setplot dc1
plot -v_d#branch
plot in out
.endc