* title - nmos characteristics

.include ./t14y_tsmc_025_level3.txt

mos1 vd vg vs vb cmosn l=5u  w=10u

v_d vd vs 5
v_g vg vs 6


.control
dc v_g 0 5 0.1 v_d 0 5 1 
run
setplot dc1
plot -v_d#branch

dc v_d 0 5 0.1 v_g 0 5 1 
run
setplot dc2
plot -v_d#branch
.endc

